US03969527
A. 3-(3-Dimethylaminopropoxy)benzaldehyde
The reaction between 61.0 g (0.50 mole) of 3-hydroxybenzaldehyde, 24.0 g of 50% NaH (0.50 mole), and 396 ml of 1.89N (0.75 mole) of 3-dimethylaminopropyl chloride in toluene in a procedure described for Example 2, part A, gives 69.0 g (66%) of colorless product, bp 155°-158°/3 mm.

reactant | 3-hydroxybenzaldehyde | 0.50 mole, 61.0 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | NaH | 0.50 mole, 24.0 g | [H-].[Na+]
reactant | 3-dimethylaminopropyl chloride | 0.75 mole, 1.89N | CN(CCCCl)C | C5H12ClN
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(3-Dimethylaminopropoxy)benzaldehyde | 69.0 g, 66% | CN(CCCOC=1C=C(C=O)C=CC1)C | C12H17NO2
